US05411966
3-(13-Acetyl-2,6-dimethyl-8alpha-ergolinyl)-1,1-diethylurea
2.4 g of anhydrous aluminum chloride and 1.3 ml of acetyl chloride are dissolved in 70 ml of dichloromethane and stirred for 15 minutes at room temperature. 708 mg of 1,1-diethyl-3-(2,6-dimethyl-8alpha-ergolinyl)-urea (2 mmol) dissolved in 30 ml of dichloromethane is added to it, and stirred for 30 minutes at room temperature. Ice is added and after 15 minutes of stirring, a solution of 2.8 g of tartaric acid in 80 ml of water is added. After another 15 minutes, it is made alkaline with conc. ammonia, the organic phase is separated and the water phase is extracted. All organic phases are dried with sodium sulfate and concentrated by evaporation, the residue is chromatographed on silica gel with dichloromethane/methanol, yield 454 mg.

reactant | aluminum chloride | 2.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 1.3 ml | C(C)(=O)Cl | C2H3ClO
reactant | 1,1-diethyl-3-(2,6-dimethyl-8alpha-ergolinyl)-urea | 2 mmol, 708 mg | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(NC4=CC=CC([C@H]2C1)=C34)C)C)CC | C21H30N4O
reactant | tartaric acid | 2.8 g | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
reactant | ammonia | N | H3N
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | water | 80 ml | O | H2O
product | 3-(13-Acetyl-2,6-dimethyl-8alpha-ergolinyl)-1,1-diethylurea | C(C)(=O)C=1C=C2NC(=C3C[C@H]4N(C[C@H](C[C@@H]4C(C1)=C32)NC(N(CC)CC)=O)C)C | C23H32N4O2
